US07939533B2
2-(3,5-Bis-trifluoromethyl-phenyl)-N-[4-(4-fluoro-2-methyl-phenyl)-6-(1-oxa-4-thia-8-aza-spiro[4.5]dec-8-yl)-pyridin-3-yl]-N-methyl-isobutyramide
To a solution of 0.20 g (0.34 mmol) 2-(3,5-bis-trifluoromethyl-phenyl)-N-[4′-(4-fluoro-2-methyl-phenyl)-4-oxo-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-5′-yl]-N-methyl-isobutyramide in 5 ml dichloromethane were added 0.03 g (0.4 mmol) 2-mercaptoethanol and 0.11 g (0.34 mmol) boron trifluoride etherate at 0° C. After 1 h the reaction mixture was allowed to warm to room temperature and stirred over night. Dilution with a 2 N aqueous sodium hydroxide solution was followed by extraction with 3 portions of dichloromethane. The combined organic extracts were dried over sodium sulfate and concentrated in vacuo. Flash column chromatography gave 0.22 g (98%) of the title compound as a white solid.

reactant | 2-(3,5-bis-trifluoromethyl-phenyl)-N-[4′-(4-fluoro-2-methyl-phenyl)-4-oxo-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-5′-yl]-N-methyl-isobutyramide | 0.34 mmol, 0.20 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C(=CC(=NC1)N1CCC(CC1)=O)C1=C(C=C(C=C1)F)C)(C)C)(F)F | C30H28F7N3O2
reactant | 2-mercaptoethanol | 0.4 mmol, 0.03 g | SCCO | C2H6OS
reactant | boron trifluoride etherate | 0.34 mmol, 0.11 g | B(F)(F)F.CCOCC
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 2-(3,5-Bis-trifluoromethyl-phenyl)-N-[4-(4-fluoro-2-methyl-phenyl)-6-(1-oxa-4-thia-8-aza-spiro[4.5]dec-8-yl)-pyridin-3-yl]-N-methyl-isobutyramide | 0.22 g, 98% | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C=NC(=CC1C1=C(C=C(C=C1)F)C)N1CCC2(SCCO2)CC1)(C)C)(F)F | C32H32F7N3O2S
